US04472433
A mixture of 2-oxo-5-chloro-7-(2-fluorophenoxy)indoline (4.0 g.), sodium hydroxide (1.2 g.), dioxane (25 ml.) and water (25 ml.) was refluxed under heating for 15 hours with stirring. The reaction mixture was evaporated under reduced pressure, and the residue was dissolved in water (200 ml.), washed with diethyl ether twice (200 ml. and 100 ml.) and then filtered. To the filtrate was added a mixture of diethyl ether (200 ml.) and ethyl acetate (200 ml.) and the mixture was adjusted to pH 4 with 5% sulfuric acid. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride (200 ml.), dried over magnesium sulfate and then evaporated under reduced pressure. The resultant product was recrystallized from ethanol (30 ml.) to give 2-[2-amino-3-(2-fluorophenoxy)-5-chlorophenyl]acetic acid (2.7 g.), mp 154° to 156° C. Thus obtained compound was dissolved in 1N aqueous sodium hydroxide (9.13 ml.) and lyophilized to give sodium 2-[2-amino-3-(2-fluorophenoxy)-5-chlorophenyl]acetate (3.15 g.). mp>250° C.

reactant | 2-oxo-5-chloro-7-(2-fluorophenoxy)indoline | 4.0 g | O=C1NC2=C(C=C(C=C2C1)Cl)OC1=C(C=CC=C1)F | C14H9ClFNO2
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
product | 2-[2-amino-3-(2-fluorophenoxy)-5-chlorophenyl]acetic acid | 2.7 g | NC1=C(C=C(C=C1OC1=C(C=CC=C1)F)Cl)CC(=O)O | C14H11ClFNO3
